US05128470
The Grignard compound was prepared under an argon atmosphere from 4.00 g of 2-bromo-6,7,8,9-tetrahydro-9,9--dimethyl-5H-benzocycloheptene, as described in EP-A2-0315071, and 456 mg of Mg shavings in 20 ml of absolute tetrahydrofuran. After carrying out the metallation a vigorous CO2 stream was introduced at -10° C. The mixture was hydrolyzed with dil. HCl, extracted with ether and washed with a small amount of water. The acid was then purified by extraction in lN NaOH, acidification to pH 1 (HCl) and re-extraction in ether. After washing with water, drying over Na2SO4 and evaporating there were obtained 2.64 g of 6,7,8,9--tetrahydro-9,9-dimethyl-5H-benzocycloheptene-2-carboxylic acid as colorless crystals of melting point 155° C.-156° C.

reactant | 2-bromo-6,7,8,9-tetrahydro-9,9--dimethyl-5H-benzocycloheptene | 4.00 g | BrC=1C=CC2=C(C(CCCC2)(C)C)C1 | C13H17Br
reactant | CO2 | C(=O)=O | CO2
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 6,7,8,9--tetrahydro-9,9-dimethyl-5H-benzocycloheptene-2-carboxylic acid | 2.64 g | CC1(CCCCC2=C1C=C(C=C2)C(=O)O)C | C14H18O2
